data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3568,"C1=CC=NC=C1.C=C(C)C1CC2[CH:1]3[CH+:2]C(C)C(C)(C1)[C:3]23C.CS(=O)(=O)[O-]|((3, 1), 2)"
train,pmechdb_split_0,0,2063,"CC[Si](CC)(CC)C(C)=C[N](C(C)(C)C)[Li-:1][NH+:2](C(C)C)C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,1198,"ClC12C3CCC(C3)C(C3CC=CC31)C2[OH+][Li:1].[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,4223,"CC[O:1][C:2](C)(CC1=NC=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3968,"CCC1(C)C[O:1]1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1106,"CCC[C+:1]=C(C=CC(OC)=[O:2])[B-]1(Cl)OC2=C(C=CC=C2)O1|(2, 1)"
train,pmechdb_split_0,0,5367,"CC(=O)O.CC1(C)C2CC1[C:1](=[CH2:2])[C:3](=[O:4])C2.FC1=C([C:5](=[CH:6][N+]2=CC=CC=C2)[O-:7])C=CC=C1.[I-].[NH4+]|(7, 5);((5, 6), 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7335,"CC1=C(CCO)SC=[N+]1CC1=CC=C(CC[N+]2=[C-:1]SC(CCO)=C2C)C=C1.CCO.CC[NH+](CC)CC.FC1=CC=C([CH:2]=[O:3])C=C1.O=C(C=CC1=CC=CS1)C1=CC=CC=C1.[Br-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8431,"CCCC[N:1]=[N+:2]=[N-:3].C[C+:4]1CCCC1|(3, 2);((2, 1), 4)"
train,pmechdb_split_0,0,4612,"C[O:1]C.C[Si:2](C)(C)I|(1, 2)"
train,pmechdb_split_0,0,9440,"CC(C)CC(C1=CC=CC=C1)(C1=CC=CC=C1)[OH+:1][Li-:2][OH].CCCC[O-].[Li+]|((2, 1), 1)"
train,pmechdb_split_0,0,2642,"COC1=CC=C([CH2:1][Br:2])C=C1.FC(F)(F)C[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5309,"C=CC[Si](C)(C)C.CCOC(=O)N1C=CC([OH:1])CC1.[Cl][Sn:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,3471,"CCC1=C(C(C)O)C=CC(C)=C1.CCC1=CC=C(C)C2=C1SC([S:1][S:2]C1=NC3=C(C)C=CC(CC)=C3S1)=N2.CCCCC[P:3](CC)CCC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10246,"C[S:1][CH+:2][O-]|(1, 2)"
train,pmechdb_split_0,0,7124,"C[Si](C)(C)[C:1]#[C:2][CH2:3][B-:4]1([O+:5]=[CH:6]CCC2CCCCC2=O)C2CCCC1CCC2|((4, 3), 2);((2, 1), 6);((6, 5), 5)"
train,pmechdb_split_0,0,1658,"Br[C:1]1=[CH:2][CH:3]=[CH:4]C2=C1C=CC=C2.[Br:5][Br:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,3489,"CC[NH+](CC)CC.C[C:1]1([OH:2])C2=C(C=CC=C2)NC(=O)C(CC2=CC=CC=C2)[NH:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8833,"N[C:1]1=[CH:2]C=C(Br)C=C1Br.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8530,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CO.[N-]=[N+]=NCC1OC(OC2C(N=[N+]=[N-])CC(N=[N+]=[N-])C(OC3OC(C[O+:1]=[CH:2]C4=CC=CC=C4)C([OH:3])C(N=[N+]=[N-])C3O)C2O)C(O)C(O)C1O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5703,"CO.ClC1=CC=C(C2([O-:1])CC3=C(CCCC3)N2)C=C1.O.[H:2][NH3+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7505,"C[CH:1]([CH-:2]C#N)[OH:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3744,"CC=CCCCC(SC1=CC=CC=C1)[S:1]C1=CC=CC=C1.C[S:2][S+:3](C)C.F[B-](F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,318,"CCCC1=CC=C([CH:1]([C:2](C)([C:3]2=CC=CC(C)=C2)[OH:4])[OH2+:5])C=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,9342,"C[P:1](C)(C)([Mg][Cl])[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,6315,"C[S:1]C.N#[C:2][S:3]C1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9063,"C1CC[CH:1]([Cl:2])C([Cl:3])C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,396,"CC1(C)OCC[O:1]1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1487,"Br[C:1]1=[CH:2]C2=C(C=CC=C2)C=C1.C[C+:3]=O|((1, 2), 3)"
train,pmechdb_split_0,0,6112,"CC(=O)[NH:1][Br:2].COC1=C(O)C=CC=C1C12CCCC(C1)[N:3](CC1=CC=CC=C1)[CH:4]=[CH:5]2|(3, 4);((4, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,4827,"CC(=O)[O-].CC1(C)CC2[CH:1]3[C:2]2(C)C1[CH+:3]3.CC1=CC=C(S(=O)(=O)[O-])C=C1|((2, 1), 3)"
train,pmechdb_split_0,0,4190,"C[NH:1][CH+:2][S-]|(1, 2)"
train,pmechdb_split_0,0,5465,"CCCCCOCC1C(O)C[CH:1]([N+:2]2=CC(C3CCCCC3)=CC=C2)[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2890,"CC(=O)O[I:1]1(OC(C)=O)([O:2][C:3](C)=[OH+:4])OC(=O)C2=C1C=CC=C2|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3916,"CCCCCC1CCC(OC(C)=[O:1])[CH:2]([O:3]S(=O)(=O)C2=CC=C(C)C=C2)C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9739,"CCC(O)(O)[NH2:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1406,"C=CC(O)(N(CC)CC)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4415,"CC(C)(C)[Si](OC[CH:1]=[O:2])(C1=CC=CC=C1)C1=CC=CC=C1.N#CCC(CC1=CNC2=C1C=CC=C2)[NH2:3].N#CCC([NH3+])CC1=CNC2=C1C=CC=C2|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2646,"CC(=O)[CH2:1][Br:2].C[C:3](=[CH2:4])[O-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8273,"O[O:1][H:2].[K][O]C([O][K])=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9070,"C1=CC=NC=C1.CC(C)=O.CC1(O)CC[C:1](=[O+:2]CCO)CC1.CC1=CC=C(S(=O)(=O)[O-])C=C1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2485,"COP(=O)(OC)[CH2:1][H:2].CS(=O)[CH2:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8153,"CC[O:1]C(O)(O)CCC#N.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2186,"O[C:1](OCCC[OH:2])=[OH+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6269,"C[O+:1](C1CCCCO1)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6182,"CC(CCC[OH:1])OS(=O)(=O)C(F)(F)F.Cl[P:2](Cl)(Cl)=[O:3]|(1, 2);((2, 3), 3)"
